US06653334B1
Synthesis of tert-Butyl 2-[3-(Allyloxycarbonylmethyl)phenoxy]-2-methylpropionate
Allyl 3-hydroxyphenylacetate (2.64 g, 13.7 mmol), potassium carbonate (3.79 g, 27.4 mmol), and tert-butyl 2-bromoisobutyrate (7.65 g, 34.3 mmol) were dissolved in dimethylformamide (5 mL), and the mixture was stirred for 13 hours at 80° C. The reaction mixture was added to water, and the resultant mixture was extracted with diethyl ether. Washing was performed sequentially with water and saturated brine, followed by drying over magnesium sulfate. The mixture was subjected to concentration under reduced pressure and purification by silica gel column chromatography (n-hexane/ethyl acetate=20/1), whereby the target compound was obtained (3.47 g, 10.38 mmol, 75.7%).

reactant | Allyl 3-hydroxyphenylacetate | 13.7 mmol, 2.64 g | OC=1C=C(C=CC1)CC(=O)OCC=C | C11H12O3
reactant | potassium carbonate | 27.4 mmol, 3.79 g | C([O-])([O-])=O.[K+].[K+]
reactant | tert-butyl 2-bromoisobutyrate | 34.3 mmol, 7.65 g | BrC(C(=O)OC(C)(C)C)(C)C | C8H15BrO2
reactant | water | O | H2O
solvent | dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | tert-Butyl 2-[3-(Allyloxycarbonylmethyl)phenoxy]-2-methylpropionate | C(C=C)OC(=O)CC=1C=C(OC(C(=O)OC(C)(C)C)(C)C)C=CC1 | C19H26O5
